US08466282B2
1-(2-hydroxyethyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-benzimidazole-2-carboxamide dihydrochloride
tert-Butyl (3S,5R)-3-[[[1-(2-hydroxyethyl)-1H-benzimidazol-2-yl]carbonyl](2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (51 mg) was dissolved in 10% hydrogen chloride-methanol (4 ml), and the mixture was stirred at room temperature for 41 hr and concentrated to give the object product (44 mg).

reactant | tert-Butyl (3S,5R)-3-[[[1-(2-hydroxyethyl)-1H-benzimidazol-2-yl]carbonyl](2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 51 mg | OCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C | C29H43N5O6
reactant | hydrogen chloride methanol | 4 ml | Cl.CO
product | 1-(2-hydroxyethyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-benzimidazole-2-carboxamide dihydrochloride | 44 mg | Cl.Cl.OCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CNC[C@@H](C2)C(=O)N2CCOCC2)CC(C)C | InChI=1S/C24H35N5O4.2ClH/c1-17(2)16-29(19-13-18(14-25-15-19)23(31)27-8-11-33-12-9-27)24(32)22-26-20-5-3-4-6-21(20)28(22)7-10-30;;/h3-6,17-19,25,30H,7-16H2,1-2H3;2*1H/t18-,19+;;/m1../s1
